US05571810
A mixture of 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]-2-thiophenamine (1.2 g) and acetic anhydride (0.36 ml) in dichloromethane (12 ml) was stirred at ambient temperature for 2 hours, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a mixture of toluene and ethyl acetate (3:1) to give a brown powder of N-{5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]-2-thienyl}acetamide (0.77 g).

reactant | 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]-2-thiophenamine | 1.2 g | FC1=CC=C(C=C1)C1=C(C=C(S1)N)C1=CC=C(C=C1)S(=O)(=O)C | C17H14FNO2S2
reactant | acetic anhydride | 0.36 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | N-{5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]-2-thienyl}acetamide | 0.77 g | FC1=CC=C(C=C1)C1=C(C=C(S1)NC(C)=O)C1=CC=C(C=C1)S(=O)(=O)C | C19H16FNO3S2
